US04220603
To a solution of 3 g of 2-[4-(4-carboxypiperidino)butoxy]bibenzyl hydrochloride in 30 ml of ethanol was added dropwise 0.9 g of thionyl chloride. The reaction mixture was stirred for one hour, heated under reflux for 30 minutes, concentrated in vacuo and then recrystallized from ethanolether to give 2.8 g (87% yield) of 2-[4-(4-ethoxycarbonylpiperidino)butoxy]bibenzyl hydrochloride, m. p. 84°-87° C.

reactant | 2-[4-(4-carboxypiperidino)butoxy]bibenzyl hydrochloride | 3 g | Cl.C(=O)(O)C1CCN(CC1)CCCCOC1=C(C=CC=C1)CCC1=CC=CC=C1
reactant | thionyl chloride | 0.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[4-(4-ethoxycarbonylpiperidino)butoxy]bibenzyl hydrochloride | 2.8 g, 87% yield | Cl.C(C)OC(=O)C1CCN(CC1)CCCCOC1=C(C=CC=C1)CCC1=CC=CC=C1 | InChI=1S/C26H35NO3.ClH/c1-2-29-26(28)24-16-19-27(20-17-24)18-8-9-21-30-25-13-7-6-12-23(25)15-14-22-10-4-3-5-11-22;/h3-7,10-13,24H,2,8-9,14-21H2,1H3;1H
